US05571810
A mixture of N-methyl-5-(4-fluorophenyl)-4-[4-(methylthio)phenyl]thiophene-2-carboxamide (1.66 g), sodium periodate (1.05 g) and water (1 ml) in methanol (100 ml) was stirred at 0° C. for 2 days. The insoluble was filtered and the filtrate was evaporated. The residue was extracted with dichloromethane. The extract was washed with water, dried over magnesium sulfate and concentrated to dryness. The residue was recrystallized from ethanol to give colorless crystals of N-methyl-5-(4-fluorophenyl)-4-[4-(methylsulfinyl)phenyl]thiophene-2-carboxamide (1.1 g).

reactant | N-methyl-5-(4-fluorophenyl)-4-[4-(methylthio)phenyl]thiophene-2-carboxamide | 1.66 g | CNC(=O)C=1SC(=C(C1)C1=CC=C(C=C1)SC)C1=CC=C(C=C1)F | C19H16FNOS2
reactant | sodium periodate | 1.05 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | 1 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | N-methyl-5-(4-fluorophenyl)-4-[4-(methylsulfinyl)phenyl]thiophene-2-carboxamide | 1.1 g | CNC(=O)C=1SC(=C(C1)C1=CC=C(C=C1)S(=O)C)C1=CC=C(C=C1)F | C19H16FNO2S2
